US06794397B2
6-Chloro-N-(2-methylcarbonyl-4,5-methylenedioxyphenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2-amino-4,5-methylenedioxyacetophenone as a light grey-yellow solid as described in Example 1. 1H NMR (CDCl3): 9.09-9.08 (m, 1H), 8.55 (s, 1H), 8.30-8.27 (m, 1H), 7.50-7.47 (m, 1H), 7.35 (s, 1H), 6.10 (s, 2H), 2.64 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2-amino-4,5-methylenedioxyacetophenone | CC(=O)C1=CC2=C(C=C1N)OCO2 | C9H9NO3
product | 6-Chloro-N-(2-methylcarbonyl-4,5-methylenedioxyphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C2C(=C1)OCO2)C(=O)C | C15H11ClN2O4
